US04342473
A mixture of 5 grams of Bisphenol A in 10 grams of p-anisoyl chloride is heated at about 80° C. for one hour. The resulting solution is slowly poured into about 600 grams of ice-water, causing the formation of white solid which is the mixture of the product and p-anisic acid. The solid is extracted with 200 ml. of toluene. The extract is washed with a 2% sodium hydroxide solution twice followed by water wash until the washing is neutral. The toluene solution is dried over anhydrous sodium sulfate and toluene is distilled in vacuo. The residue is crystallized from heptane to provide 7.2 grams of Bisphenol A dianisoate, mp. 155°-157° C.

reactant | Bisphenol A | 5 grams | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | p-anisic acid | C(C1=CC=C(C=C1)OC)(=O)O | C8H8O3
solvent | p-anisoyl chloride | 10 grams | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | Bisphenol A dianisoate | 7.2 grams | C(C1=CC=C(C=C1)OC)(=O)O.C(C1=CC=C(C=C1)OC)(=O)O.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | InChI=1S/C15H16O2.2C8H8O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2*1-11-7-4-2-6(3-5-7)8(9)10/h3-10,16-17H,1-2H3;2*2-5H,1H3,(H,9,10)
